US05656624
Reflux a solution of methyl 4-formylbenzoate (5.23 g, 31.9 mmol) and p-anisidine in toluene (50 mL) overnight with azeotropic removal of water via a Dean-Stark trap. Add n-tributylamine (22.8 mL, 95.6 mmol), followed by 5-phenylvaleryl chloride (47.8 mL, 47.8 mmol, 1M in toluene) and reflux overnight. Cool the reaction to room temperature, quench with 1M HCl and stir 15 min. Dilute the reaction mixture with ethyl acetate (EtOAc), wash with 1M HCl, water and brine, dry over Na2SO4 and concentrate. Dissolve the resulting residue in tetrahydrofuran (THF), dilute with an equal volume of CH3OH, add NaBH4 (1.22 g, 32 mmol) and stir for 30 min. Add 1M HCl, dilute with EtOAc and wash with 1M HCl, water and brine. Dry over Na2SO4, filter and concentrate on enough silica gel to obtain a free-flowing powder. Load the powder onto a chromatography column packed with silica and 30% EtOAc/hexanes and elute with the same solvent to obtain 12.2 g (92%) of methyl 4-[1-(4-methoxyphenyl)-3-(3-phenylpropyl)-2-oxo-4-azetidinyl]benzoate as a 12/1 trans/cis mixture. 1H NMR (400 MHz, CDCl3, trans isomer) 8.05(2H, d; J=8.2 Hz), 7.39(2H, d, J=8.2 Hz), 7.28(3H, m), 7.17(6H, m), 6.77(2H, d, J=6.9 Hz), 4.65(1H, d, J=2.1 Hz), 3.91(3H, s), 3.73(3H, s), 3.09(1H, m), 2.65(2H, m), 1.97(1H, m), 1.82(3H, m). Diagnostic C-4 proton for cis diastereomer 5.18(J=5.7 Hz). MS(EI): 429(M+,6), 269(13), 149(100).

reactant | methyl 4-formylbenzoate | 31.9 mmol, 5.23 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | p-anisidine | COC1=CC=C(C=C1)N | C7H9NO
reactant | 5-phenylvaleryl chloride | 47.8 mmol, 1M, 47.8 mL | C1(=CC=CC=C1)CCCCC(=O)Cl | C11H13ClO
reactant | NaBH4 | 32 mmol, 1.22 g | [BH4-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 4-[1-(4-methoxyphenyl)-3-(3-phenylpropyl)-2-oxo-4-azetidinyl]benzoate | 12.2 g, 92% | COC1=CC=C(C=C1)N1C(C(C1C1=CC=C(C(=O)OC)C=C1)CCCC1=CC=CC=C1)=O | C27H27NO4
